US09212120B2
[1-(2-Oxo-propyl)-cyclopropyl]-acetic acid
To a solution of 4.4 g 6-oxa-spiro[2.5]octane-5,7-dione (31 mmole) in 66 ml tetrahydrofuran are added 600 mg copper(I)chloride (6 mmole, 0.2 eq). The mixture is cooled to −20° C. and 9.8 ml of methylmagnesium bromide in 2-methyl tetrahydrofuran (3.2 M solution in 2-methyl tetrahydrofuran, 31 mmole, 1.0 eq) are added dropwise over 0.5 hours. The mixture is warmed to room temperature and stirred for 2 hours. 66 ml of water are added and the mixture is acidified to pH 3.0 by addition of 20.4 g of 2 M hydrochloric acid. 50 ml of methyl tert-butyl ether are added and the phases are separated. The aqueous phase is extracted again with 50 ml of methyl tert-butyl ether and the combined organic phases are washed with 20 ml of brine and concentrated to dryness. The resulting crude product is directly used in the next step (esterification to [1-(2-oxo-propyl)-cyclopropyl]-acetic acid methyl ester).

reactant | 6-oxa-spiro[2.5]octane-5,7-dione | 31 mmole, 4.4 g | C1CC12CC(OC(C2)=O)=O | C7H8O3
reactant | methylmagnesium bromide | 9.8 ml | C[Mg]Br
reactant | 2-methyl tetrahydrofuran | 31 mmole, 3.2 M, 1.0 eq | CC1OCCC1 | C5H10O
reactant | hydrochloric acid | 2 M, 20.4 g | Cl | ClH
solvent | tetrahydrofuran | 66 ml | O1CCCC1 | C4H8O
catalyst | copper(I)chloride | 6 mmole, 600 mg, 0.2 eq | [Cu]Cl
solvent | methyl tert-butyl ether | 50 ml | C(C)(C)(C)OC | C5H12O
solvent | water | 66 ml | O | H2O
product | [1-(2-Oxo-propyl)-cyclopropyl]-acetic acid | O=C(CC1(CC1)CC(=O)O)C | C8H12O3
